US06821967B2
9-[4-(4-benzothiazol-2-yl-cis-2,6-dimethyl-piperazin-1-yl)-butyl]-9H-xanthene-9-carboxylic acid-(2,2,2-trifluoro-ethyl)-amide
Prepared analogously to Example 1 from 9-(4-bromo-butyl)-9H-xanthene-9-carboxylic acid-(2,2,2-trifluoro-ethyl)-amide and 2-(cis-3,5-dimethyl-piperazin-1-yl)-benzothiazole.

reactant | 9-(4-bromo-butyl)-9H-xanthene-9-carboxylic acid-(2,2,2-trifluoro-ethyl)-amide | FC(CNC(=O)C1(C2=CC=CC=C2OC=2C=CC=CC12)CCCCBr)(F)F | C20H19BrF3NO2
reactant | 2-(cis-3,5-dimethyl-piperazin-1-yl)-benzothiazole | C[C@@H]1CN(C[C@@H](N1)C)C=1SC2=C(N1)C=CC=C2 | C13H17N3S
product | 9-[4-(4-benzothiazol-2-yl-cis-2,6-dimethyl-piperazin-1-yl)-butyl]-9H-xanthene-9-carboxylic acid-(2,2,2-trifluoro-ethyl)-amide | FC(CNC(=O)C1(C2=CC=CC=C2OC=2C=CC=CC12)CCCCN1[C@H](CN(C[C@H]1C)C=1SC2=C(N1)C=CC=C2)C)(F)F | C33H35F3N4O2S
